US09163008B2
A mixture of 2-(2-aminopyridin-4-yl)-4-chlorophenol (110 mg, 0.5 mmol), (S)-6-((1-amino-1-oxopropan-2-yl)amino)-2-chloropyrimidine-4-carboxamide (122 mg, 0.5 mmol), CuI (10 mg, 0.05 mmol) and Cs2CO3 (191 mg, 0.5 mmol) in DMF (3 mL) was stirred at 120° C. for 4 hrs. The reaction mixture was cooled to room temperature, worked up with dichloromethane and subjected to flash chromatography (DCM/methanol) to give (S)-6-((1-amino-1-oxopropan-2-yl)amino)-2-(2-(2-aminopyridin-4-yl)-4-chlorophenoxy)pyrimidine-4-carboxamide as a white solid (189 mg, yield 85%). 1H NMR (CD3OD): 7.82-8.05 (1H, br), 7.6 (2H, m), 7.40 (2H, m), 6.80 (1H, m), 6.60 (2H, m), 4.23-4.10 (1H, m), 1.35 (3′-1, d, J=7.0 Hz). LC/MS: m/z=428 [M+H]+.

reactant | 2-(2-aminopyridin-4-yl)-4-chlorophenol | 0.5 mmol, 110 mg | NC1=NC=CC(=C1)C1=C(C=CC(=C1)Cl)O | C11H9ClN2O
reactant | (S)-6-((1-amino-1-oxopropan-2-yl)amino)-2-chloropyrimidine-4-carboxamide | 0.5 mmol, 122 mg | NC([C@H](C)NC1=CC(=NC(=N1)Cl)C(=O)N)=O | C8H10ClN5O2
reactant | Cs2CO3 | 0.5 mmol, 191 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.05 mmol, 10 mg | [Cu]I
solvent | DCM methanol | C(Cl)Cl.CO
product | (S)-6-((1-amino-1-oxopropan-2-yl)amino)-2-(2-(2-aminopyridin-4-yl)-4-chlorophenoxy)pyrimidine-4-carboxamide | 189 mg, yield 85% | NC([C@H](C)NC1=CC(=NC(=N1)OC1=C(C=C(C=C1)Cl)C1=CC(=NC=C1)N)C(=O)N)=O | C19H18ClN7O3
